US07465733B2
Step A: 1a,2,3,7b-Tetrahydronaphtho[1,2-b]oxirene
36.5 g of 1,2-dihydronaphthalene (280.3 mmol) are treated with Oxone® according to the method described in Step A of Example 8 to yield the expected product in the form of an oil.

reactant | 1,2-dihydronaphthalene | 280.3 mmol, 36.5 g | C1CC=CC2=CC=CC=C12 | C10H10
reactant | Oxone | OOS(=O)[O-].[K+]
product | 1a,2,3,7b-Tetrahydronaphtho[1,2-b]oxirene | O1C2C1CCC1=CC=CC=C12 | C10H10O
